US07235572B2
In analogy to the procedure described in example 2 c], {6-[2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {6-[2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid as yellow solid.

reactant | {6-[2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC1=C(N=C(S1)C1=C(C(=C(C=C1)C(F)(F)F)F)F)C)=O | C26H23F5N2O3S
reactant | LiOH | [Li+].[OH-]
product | {6-[2-(2,3-difluoro-4-trifluoromethyl-phenyl)-4-methyl-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid | FC1=C(C=CC(=C1F)C(F)(F)F)C=1SC(=C(N1)C)COC1=CC=C2C=CN(C2=C1)CC(=O)O | C22H15F5N2O3S
